US07507726B2
4-[6-(3-Buten-1-yl)-2-(methylthio)-4-pyrimidinyl]morpholine
To a solution of 4-(3-buten-1-yl)-6-chloro-2-(methylthio)-pyrimidine (26.66 mmol) and DIPEA (5.1 mL, 29.33 mmol) in 1,4-dioxane (100 mL) at room temperature was added morpholine (2.6 mL, 29.33 mmol). The reaction mixture was stirred and heated at 80° C. overnight. After the reaction was completed, the volatiles were removed by evaporation in vacuo. The residue was purified by column chromatography (hexane/EtOAc=8:1 to 4:1) to provide the title compound. MH+266.

reactant | 4-(3-buten-1-yl)-6-chloro-2-(methylthio)-pyrimidine | 26.66 mmol | C(CC=C)C1=NC(=NC(=C1)Cl)SC | C9H11ClN2S
reactant | DIPEA | 29.33 mmol, 5.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | morpholine | 29.33 mmol, 2.6 mL | N1CCOCC1 | C4H9NO
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 4-[6-(3-Buten-1-yl)-2-(methylthio)-4-pyrimidinyl]morpholine | C(CC=C)C1=CC(=NC(=N1)SC)N1CCOCC1 | C13H19N3OS
